US06521643B1
To a stirred solution of 1-(4-methylpyridin-2-yl)propan-1-one (0.9 g) in chloroform (5 ml) was added a solution of sulfuryl chloride (0.533 ml) in chloroform (5 ml) dropwise. The resultant mixture was refluxed for 2 hours and evaporated under reduced pressure. The pH was adjusted to 8.5 with a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate twice. The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, n-hexane:dichloromethane=1:1) to give 2-chloro-1-(4-methylpyridin-2-yl)propan-1-one (0.71 g).

reactant | 1-(4-methylpyridin-2-yl)propan-1-one | 0.9 g | CC1=CC(=NC=C1)C(CC)=O | C9H11NO
reactant | sulfuryl chloride | 0.533 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-1-(4-methylpyridin-2-yl)propan-1-one | 0.71 g | ClC(C(=O)C1=NC=CC(=C1)C)C | C9H10ClNO
